US08048909B2
1-[1-(Butylsulfonyl)-5-phenyl-1H-pyrrol-3-yl]-N-methylmethanamine 0.5 oxalic acid salt
Using tert-butyl methyl[(5-phenyl-1H-pyrrol-3-yl)methyl]carbamate (70 mg), sodium hydride (60% in oil, 98 mg) and butane-1-sulfonyl chloride (230 mg), a procedure as in Example 38 was performed to give the title compound as pale-purplish red crystals (yield 18 mg, 21%).

reactant | tert-butyl methyl[(5-phenyl-1H-pyrrol-3-yl)methyl]carbamate | 70 mg | CN(C(OC(C)(C)C)=O)CC1=CNC(=C1)C1=CC=CC=C1 | C17H22N2O2
reactant | sodium hydride | 98 mg | [H-].[Na+]
reactant | butane-1-sulfonyl chloride | 230 mg | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
product | 1-[1-(Butylsulfonyl)-5-phenyl-1H-pyrrol-3-yl]-N-methylmethanamine | yield 18 mg, 21% | C(CCC)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CNC | C16H22N2O2S
